US04977155
4-Amino-7,8-dihydroxy-1-methyl-1H-1,2,3-triazolo[4,5-f]quinoxaline
A solution of stannous chloride dihydrate (2.26 g, 10 mmol) in 10 ml of conc. hydrochloric acid was added dropwise to a suspension of 7,8-dihydroxy-1-methyl-4-nitro-1H-1,2,3-triazolo[4,5-f]quinoxaline (0.79 g, 3 mmol) in 5 ml of conc. hydrochloric acid with stirring on an oil bath at 60°-70° C. Stirring was continued at this temperature for 90 min. Then the mixture was cooled on an ice bath, and filtered. The precipitate was washed with 1 ml of conc. hydrochloric acid, suspended in 150 ml of hot water, and adjusted to pH 6-7 with solid sodium hydrogen carbonate. After reflux for 1 h the mixture was cooled on ice and the crude product was isolated by filtration, dissolved in 40 ml of hot 2N sodium hydroxide and reprecipitated with 4M acetic acid giving 0.16 g (23%) of the pure amino compound; m.p.>300° C.; IR (KBr): 3435, 3350, 3240, 3100-2400, 1690, 1640 cm-1.

reactant | 7,8-dihydroxy-1-methyl-4-nitro-1H-1,2,3-triazolo[4,5-f]quinoxaline | 3 mmol, 0.79 g | OC1=NC2=CC(=C3C(=C2N=C1O)N(N=N3)C)[N+](=O)[O-] | C9H6N6O4
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 4-Amino-7,8-dihydroxy-1-methyl-1H-1,2,3-triazolo[4,5-f]quinoxaline | NC1=C2C(=C3N=C(C(=NC3=C1)O)O)N(N=N2)C | C9H8N6O2
